US05770614
Synthesis of (E)-2-[2-(6-methylthiopyridin-2-yloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide (Compound 8)
(E)-2-[2-(6-chloropyridin-2-yloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide (1.2 g) was dissolved in tetrahydrofuran (10 ml), and sodium thiomethoxide (1 g) was added. The mixture was heated under reflux with stirring for 5 hours. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried, and the solvent was evaporated. The resulting oil was purified by column chromatography on silica gel to give the title compound (800 mg). mp. 130°-132° C.

reactant | (E)-2-[2-(6-chloropyridin-2-yloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide | 1.2 g | ClC1=CC=CC(=N1)OCC1=C(C=CC=C1)\C(\C(=O)NC)=N/OC | C16H16ClN3O3
reactant | sodium thiomethoxide | 1 g | C[S-].[Na+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (E)-2-[2-(6-methylthiopyridin-2-yloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide | 800 mg | CSC1=CC=CC(=N1)OCC1=C(C=CC=C1)\C(\C(=O)NC)=N/OC | C17H19N3O3S
